US03932318
The procedure of Example 82 was repeated, using a mixture of 140 ml. chloral, 7 ml. p-chlorophenyl isocyanate, 2 ml. dodecyl isocyanate and 6.0 ml. of a 1 molar solution of triphenylphosphine in benzene. A tough, clear sheet of chloral/p-chlorophenyl isocyanate/dodecyl isocyanate terpolymer was obtained.

reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | dodecyl isocyanate | C(CCCCCCCCCCC)N=C=O | C13H25NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | chloral p-chlorophenyl isocyanate dodecyl isocyanate | O=CC(Cl)(Cl)Cl.ClC1=CC=C(C=C1)N=C=O.C(CCCCCCCCCCC)N=C=O | InChI=1S/C13H25NO.C7H4ClNO.C2HCl3O/c1-2-3-4-5-6-7-8-9-10-11-12-14-13-15;8-6-1-3-7(4-2-6)9-5-10;3-2(4,5)1-6/h2-12H2,1H3;1-4H;1H
